US06897231B2
A. 3-{3-[2-(Dimethylamino)acetylamino]phenyl}-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide
To a solution of 2-(dimethylamino)acetic acid hydrochloride (0.091 g, 0.649 mmol) in 6 mL of dichloromethane was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) (0.135 g, 0.708 mmol) and triethyl amine (0.090 mL, 0.649 mmol). The reaction was stirred at room temperature for 10 min before 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (0.200 g, 0.59 mmol) dissolved in 1 mL of dichloromethane, was added to the solution. Dimethyl formamide (2 mL) was added to aid solubility. Additional reagent (1 equivalent) was necessary to drive the reaction to completion. The reaction mixture was then partitioned between water and dichloromethane. The crude material that was obtained from evaporation of the extracts was not purified further. (Yield not calculated) ES-MS (m/z) 422 [M+H]+.

reactant | 2-(dimethylamino)acetic acid hydrochloride | 0.649 mmol, 0.091 g | Cl.CN(CC(=O)O)C
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.708 mmol, 0.135 g | Cl.CN(CCCN=C=NCC)C
reactant | triethyl amine | 0.649 mmol, 0.090 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.59 mmol, 0.200 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | Dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-{3-[2-(Dimethylamino)acetylamino]phenyl}-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | CN(CC(=O)NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1)C | C23H27N5O3
